US07622493B2
7-ethoxyspiro[chroman-2,1′-cyclopentan]-4-one
The title compound was prepared using the procedure as described in Example 1A, substituting 4′-ethoxy-2′-hydroxyacetophenone (Aldrich, CAS# 37470-42-1) for 2′-hydroxyacetophenone and cyclopentanone for cyclohexanone. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.65 (d, J=8.6 Hz, 1H), 6.57 (dd; J=8.4, 2.3 Hz; 1H), 6.45 (d, J=2.4 Hz, 1H), 4.08 (q, J=7.1 Hz, 2H), 2.79 (s, 2H), 1.94 (m, 2H), 1.60-1.80 (m, 6H), 1.32 (t, J=7.0 Hz, 3H). MS (DCI+) m/z 247 (M+H), 264 (M+NH4).

reactant | 2′-hydroxyacetophenone | OC1=C(C=CC=C1)C(C)=O | C8H8O2
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
product | 7-ethoxyspiro[chroman-2,1′-cyclopentan]-4-one | C(C)OC1=CC=C2C(CC3(CCCC3)OC2=C1)=O | C15H18O3
